* NGSPICE file created from device-complete.ext - technology: sky130A

.subckt sensor vd vts vtd gnd
X0 b vtd c vd sky130_fd_pr__pfet_01v8 ad=0.29 pd=2.29 as=0.58 ps=4.58 w=2 l=1
X1 gnd b b gnd sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=1
X2 vtd b gnd gnd sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=1
X3 vtd b gnd gnd sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=1
X4 gnd gnd gnd gnd sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=11.6 ps=103 w=1 l=1
X5 vts vtd vtd vts sky130_fd_pr__pfet_01v8 ad=0.29 pd=2.29 as=0.29 ps=2.29 w=2 l=1
X6 gnd b vtd gnd sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=1
X7 gnd b vtd gnd sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=1
X8 vts vtd vtd vts sky130_fd_pr__pfet_01v8 ad=0.29 pd=2.29 as=0.58 ps=4.58 w=2 l=1
X9 gnd b b gnd sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=1
X10 gnd b b gnd sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=1
X11 c vtd b vd sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.58 as=0.29 ps=2.29 w=2 l=1
X12 vtd vtd vts vts sky130_fd_pr__pfet_01v8 ad=0.29 pd=2.29 as=0.29 ps=2.29 w=2 l=1
X13 gnd b a gnd sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=1
X14 d vtd vd vd sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=1
X15 c vtd b vd sky130_fd_pr__pfet_01v8 ad=0.29 pd=2.29 as=0.29 ps=2.29 w=2 l=1
X16 b b gnd gnd sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=1
X17 gnd gnd gnd gnd sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0 ps=0 w=1 l=1
X18 b b gnd gnd sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=1
X19 gnd gnd gnd gnd sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0 ps=0 w=1 l=1
X20 a a vd vd sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.58 as=0.29 ps=2.29 w=2 l=1
X21 a b gnd gnd sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=1
X22 a b gnd gnd sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=1
X23 vd a a vd sky130_fd_pr__pfet_01v8 ad=0.29 pd=2.29 as=0.58 ps=4.58 w=2 l=1
X24 vtd b gnd gnd sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=1
X25 vts vtd vtd vts sky130_fd_pr__pfet_01v8 ad=0.29 pd=2.29 as=0.29 ps=2.29 w=2 l=1
X26 gnd gnd gnd gnd sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0 ps=0 w=1 l=1
X27 vd vd vd vd sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.58 as=5.22 ps=41.2 w=2 l=1
X28 b vtd c vd sky130_fd_pr__pfet_01v8 ad=0.29 pd=2.29 as=0.29 ps=2.29 w=2 l=1
X29 vtd b gnd gnd sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=1
X30 gnd b vtd gnd sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=1
X31 gnd gnd gnd gnd sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0 ps=0 w=1 l=1
X32 c a d vd sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.58 as=0.29 ps=2.29 w=2 l=1
X33 vtd vtd vts vts sky130_fd_pr__pfet_01v8 ad=0.29 pd=2.29 as=0.29 ps=2.29 w=2 l=1
X34 gnd gnd gnd gnd sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0 ps=0 w=1 l=1
X35 gnd gnd gnd gnd sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0 ps=0 w=1 l=1
X36 vd vd vd vd sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.58 as=0 ps=0 w=2 l=1
X37 d a c vd sky130_fd_pr__pfet_01v8 ad=0.29 pd=2.29 as=0.29 ps=2.29 w=2 l=1
X38 b b gnd gnd sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=1
X39 gnd b b gnd sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=1
X40 vd vd vd vd sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.58 as=0 ps=0 w=2 l=1
X41 c a d vd sky130_fd_pr__pfet_01v8 ad=0.29 pd=2.29 as=0.29 ps=2.29 w=2 l=1
X42 vtd vtd vts vts sky130_fd_pr__pfet_01v8 ad=0.29 pd=2.29 as=0.29 ps=2.29 w=2 l=1
X43 gnd b a gnd sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=1
X44 d a c vd sky130_fd_pr__pfet_01v8 ad=0.29 pd=2.29 as=0.58 ps=4.58 w=2 l=1
X45 gnd b a gnd sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=1
X46 gnd b a gnd sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=1
X47 b b gnd gnd sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=1
X48 gnd gnd gnd gnd sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0 ps=0 w=1 l=1
X49 gnd b vtd gnd sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=1
X50 a b gnd gnd sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=1
X51 vts vts vts vts sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.58 as=5.22 ps=41.2 w=2 l=1
X52 vts vtd vtd vts sky130_fd_pr__pfet_01v8 ad=0.29 pd=2.29 as=0.29 ps=2.29 w=2 l=1
X53 vd vtd vts vd sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=5
X54 vtd vtd vts vts sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.58 as=0.29 ps=2.29 w=2 l=1
X55 c c c vd sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.58 as=4.64 ps=36.6 w=2 l=1
X56 vts vts vts vts sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.58 as=0 ps=0 w=2 l=1
X57 a b gnd gnd sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=1
.ends

.subckt sky130_fd_pr__pfet_01v8_3HMWVM a_158_n197# a_n416_n100# a_n358_n197# w_n710_n200#
+ a_358_n100# a_416_n197# a_n100_n197# a_100_n100# a_n674_n100# a_n158_n100# a_n616_n197#
+ a_616_n100#
X0 a_n158_n100# a_n358_n197# a_n416_n100# w_n710_n200# sky130_fd_pr__pfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X1 a_100_n100# a_n100_n197# a_n158_n100# w_n710_n200# sky130_fd_pr__pfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X2 a_616_n100# a_416_n197# a_358_n100# w_n710_n200# sky130_fd_pr__pfet_01v8 ad=0.29 pd=2.58 as=0.145 ps=1.29 w=1 l=1
X3 a_358_n100# a_158_n197# a_100_n100# w_n710_n200# sky130_fd_pr__pfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X4 a_n416_n100# a_n616_n197# a_n674_n100# w_n710_n200# sky130_fd_pr__pfet_01v8 ad=0.145 pd=1.29 as=0.29 ps=2.58 w=1 l=1
.ends

.subckt sky130_fd_pr__nfet_01v8_HBAYNJ a_1003_n100# a_803_n188# a_n2035_n188# a_n2867_n100#
+ a_n29_n100# a_487_n100# a_1835_n188# a_2293_n100# a_n229_n188# a_n1835_n100# a_287_n188#
+ a_n1003_n188# a_2093_n188# a_n803_n100# a_1519_n100# a_n2093_n100# a_1261_n100#
+ a_1319_n188# a_n2293_n188# a_n1319_n100# a_1061_n188# a_n287_n100# a_n1061_n100#
+ a_n1519_n188# a_2809_n100# a_745_n100# a_n487_n188# a_n1261_n188# a_2551_n100# a_2609_n188#
+ a_545_n188# a_2351_n188# a_1777_n100# a_n2609_n100# a_n2351_n100# a_1577_n188# a_229_n100#
+ a_n2809_n188# a_n1577_n100# a_n2551_n188# a_2035_n100# a_n545_n100# a_n1777_n188#
+ a_29_n188# a_n745_n188# VSUBS
X0 a_n287_n100# a_n487_n188# a_n545_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X1 a_n2351_n100# a_n2551_n188# a_n2609_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X2 a_1777_n100# a_1577_n188# a_1519_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X3 a_2293_n100# a_2093_n188# a_2035_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X4 a_1003_n100# a_803_n188# a_745_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X5 a_n1577_n100# a_n1777_n188# a_n1835_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X6 a_n2093_n100# a_n2293_n188# a_n2351_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X7 a_n803_n100# a_n1003_n188# a_n1061_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X8 a_745_n100# a_545_n188# a_487_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X9 a_n29_n100# a_n229_n188# a_n287_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X10 a_229_n100# a_29_n188# a_n29_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X11 a_1519_n100# a_1319_n188# a_1261_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X12 a_487_n100# a_287_n188# a_229_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X13 a_n1319_n100# a_n1519_n188# a_n1577_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X14 a_n545_n100# a_n745_n188# a_n803_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X15 a_2809_n100# a_2609_n188# a_2551_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.145 ps=1.29 w=1 l=1
X16 a_n1835_n100# a_n2035_n188# a_n2093_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X17 a_1261_n100# a_1061_n188# a_1003_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X18 a_n2609_n100# a_n2809_n188# a_n2867_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.29 ps=2.58 w=1 l=1
X19 a_2035_n100# a_1835_n188# a_1777_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X20 a_n1061_n100# a_n1261_n188# a_n1319_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X21 a_2551_n100# a_2351_n188# a_2293_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
.ends

.subckt sky130_fd_pr__nfet_01v8_XWAA4X a_n416_n100# a_358_n100# a_158_n188# a_100_n100#
+ a_n158_n100# a_n358_n188# a_n100_n188# VSUBS
X0 a_n158_n100# a_n358_n188# a_n416_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.29 ps=2.58 w=1 l=1
X1 a_100_n100# a_n100_n188# a_n158_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X2 a_358_n100# a_158_n188# a_100_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.145 ps=1.29 w=1 l=1
.ends

.subckt sky130_fd_pr__pfet_01v8_3HZSVM a_n487_n197# a_n29_n100# a_487_n100# a_545_n197#
+ a_n803_n100# a_29_n197# a_n287_n100# a_n745_n197# a_745_n100# w_n839_n200# a_n229_n197#
+ a_287_n197# a_229_n100# a_n545_n100#
X0 a_745_n100# a_545_n197# a_487_n100# w_n839_n200# sky130_fd_pr__pfet_01v8 ad=0.29 pd=2.58 as=0.145 ps=1.29 w=1 l=1
X1 a_n29_n100# a_n229_n197# a_n287_n100# w_n839_n200# sky130_fd_pr__pfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X2 a_229_n100# a_29_n197# a_n29_n100# w_n839_n200# sky130_fd_pr__pfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X3 a_487_n100# a_287_n197# a_229_n100# w_n839_n200# sky130_fd_pr__pfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X4 a_n545_n100# a_n745_n197# a_n803_n100# w_n839_n200# sky130_fd_pr__pfet_01v8 ad=0.145 pd=1.29 as=0.29 ps=2.58 w=1 l=1
X5 a_n287_n100# a_n487_n197# a_n545_n100# w_n839_n200# sky130_fd_pr__pfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
.ends

.subckt sky130_fd_pr__pfet_01v8_3H5TVM a_n100_n197# a_100_n100# w_n194_n200# a_n158_n100#
X0 a_100_n100# a_n100_n197# a_n158_n100# w_n194_n200# sky130_fd_pr__pfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=1
.ends

.subckt sky130_fd_pr__nfet_01v8_P8B44K a_1648_n100# a_2222_n188# a_1390_n100# a_n2222_n100#
+ a_1448_n188# a_n1448_n100# a_1190_n188# a_n2422_n188# a_n416_n100# a_n1190_n100#
+ a_n1648_n188# a_874_n100# a_n1390_n188# a_2680_n100# a_n616_n188# a_674_n188# a_2480_n188#
+ a_n2738_n100# a_1906_n100# a_n2480_n100# a_358_n100# a_1706_n188# a_2164_n100# a_n2680_n188#
+ a_n1706_n100# a_158_n188# a_100_n100# a_n674_n100# a_n1906_n188# a_n874_n188# a_1132_n100#
+ a_932_n188# a_n2164_n188# a_n158_n100# a_1964_n188# a_616_n100# a_n358_n188# a_n1964_n100#
+ a_n1132_n188# a_2422_n100# a_416_n188# a_n932_n100# a_n100_n188# VSUBS
X0 a_1132_n100# a_932_n188# a_874_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X1 a_n416_n100# a_n616_n188# a_n674_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X2 a_1906_n100# a_1706_n188# a_1648_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X3 a_n932_n100# a_n1132_n188# a_n1190_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X4 a_2422_n100# a_2222_n188# a_2164_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X5 a_n158_n100# a_n358_n188# a_n416_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X6 a_874_n100# a_674_n188# a_616_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X7 a_n1706_n100# a_n1906_n188# a_n1964_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X8 a_100_n100# a_n100_n188# a_n158_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X9 a_n2222_n100# a_n2422_n188# a_n2480_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X10 a_1648_n100# a_1448_n188# a_1390_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X11 a_n1448_n100# a_n1648_n188# a_n1706_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X12 a_n674_n100# a_n874_n188# a_n932_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X13 a_n1964_n100# a_n2164_n188# a_n2222_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X14 a_1390_n100# a_1190_n188# a_1132_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X15 a_2164_n100# a_1964_n188# a_1906_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X16 a_616_n100# a_416_n188# a_358_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X17 a_2680_n100# a_2480_n188# a_2422_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.145 ps=1.29 w=1 l=1
X18 a_n1190_n100# a_n1390_n188# a_n1448_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
X19 a_n2480_n100# a_n2680_n188# a_n2738_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.29 ps=2.58 w=1 l=1
X20 a_358_n100# a_158_n188# a_100_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.145 ps=1.29 w=1 l=1
.ends

.subckt sky130_fd_pr__cap_mim_m3_2_26U9NK c2_n3269_n1500# m4_n3349_n1580#
X0 c2_n3269_n1500# m4_n3349_n1580# sky130_fd_pr__cap_mim_m3_2 l=15 w=30
.ends

.subckt buffer vd ib out in gnd
Xsky130_fd_pr__pfet_01v8_3HMWVM_0 a vd a vd d a a vd d d a vd sky130_fd_pr__pfet_01v8_3HMWVM
Xsky130_fd_pr__pfet_01v8_3HMWVM_3 b vd b vd out b b vd out out b vd sky130_fd_pr__pfet_01v8_3HMWVM
Xsky130_fd_pr__nfet_01v8_HBAYNJ_0 b in in a b a in c in c out in in c a b c out in
+ c in c b out a c out in a a out out c a c out c a a out b a out in out gnd sky130_fd_pr__nfet_01v8_HBAYNJ
Xsky130_fd_pr__nfet_01v8_XWAA4X_0 ib c ib gnd ib ib ib gnd sky130_fd_pr__nfet_01v8_XWAA4X
Xsky130_fd_pr__pfet_01v8_3HZSVM_0 a vd vd a vd a d vd d vd a a d vd sky130_fd_pr__pfet_01v8_3HZSVM
Xsky130_fd_pr__pfet_01v8_3HZSVM_1 b vd vd vd out b out b vd vd b b out vd sky130_fd_pr__pfet_01v8_3HZSVM
Xsky130_fd_pr__pfet_01v8_3H5TVM_0 a a vd vd sky130_fd_pr__pfet_01v8_3H5TVM
Xsky130_fd_pr__pfet_01v8_3H5TVM_1 b b vd vd sky130_fd_pr__pfet_01v8_3H5TVM
XXM9 gnd d d out d gnd d d gnd out d out d d d d d d out gnd d d gnd d d d gnd d d
+ d gnd d d out d gnd d gnd d d d gnd d gnd sky130_fd_pr__nfet_01v8_P8B44K
Xsky130_fd_pr__cap_mim_m3_2_26U9NK_0 out d sky130_fd_pr__cap_mim_m3_2_26U9NK
.ends

.subckt ask-modulator gnd in out vd VSUBS
X0 vd out sky130_fd_pr__cap_mim_m3_2 l=24.4 w=24.4
X1 vd a_6866_12466# gnd sky130_fd_pr__res_xhigh_po_0p35 l=5
X2 vd out sky130_fd_pr__cap_mim_m3_2 l=24.4 w=24.4
X3 vd out sky130_fd_pr__cap_mim_m3_2 l=24.4 w=24.4
X4 gnd in out gnd sky130_fd_pr__nfet_01v8 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=0.15
.ends

.subckt sigma-delta in gnd vd x1/VGND clk out reset_b_dff vpwr VSUBS
X0 a_n2266_4800# a_n2100_3468# gnd sky130_fd_pr__res_xhigh_po_0p35 l=4.5
X1 a_n1124_4800# a_n958_3468# gnd sky130_fd_pr__res_xhigh_po_0p35 l=4.5
X2 vpwr a_n1599_1969# a_n1612_2361# vpwr sky130_fd_pr__pfet_01v8_hvt ad=0.0819 pd=0.81 as=0.0567 ps=0.69 w=0.42 l=0.15
X3 a_n1599_1969# a_n1774_1995# a_n1420_1995# gnd sky130_fd_pr__nfet_01v8 ad=0.109 pd=1.36 as=0.064 ps=0.725 w=0.42 l=0.15
X4 a_n2231_2361# reset_b_dff vpwr vpwr sky130_fd_pr__pfet_01v8_hvt ad=0.109 pd=1.36 as=0.0703 ps=0.755 w=0.42 l=0.15
X5 a_n1599_1969# reset_b_dff vpwr vpwr sky130_fd_pr__pfet_01v8_hvt ad=0.0567 pd=0.69 as=0.0819 ps=0.81 w=0.42 l=0.15
X6 x1.Q a_n1599_1969# vpwr vpwr sky130_fd_pr__pfet_01v8_hvt ad=0.28 pd=2.56 as=0.213 ps=1.67 w=1 l=0.15
X7 out a_n1035_1995# gnd gnd sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.1 ps=0.985 w=0.65 l=0.15
X8 a_n2243_1995# a_n2689_1995# a_n2339_1995# gnd sky130_fd_pr__nfet_01v8 ad=0.14 pd=1.1 as=0.0594 ps=0.69 w=0.36 l=0.15
X9 a_n1665_1995# a_n2855_1995# a_n1774_1995# gnd sky130_fd_pr__nfet_01v8 ad=0.0669 pd=0.75 as=0.0711 ps=0.755 w=0.36 l=0.15
X10 gnd a_n1768_3468# x1.D gnd sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=0.15
X11 a_n792_4800# a_n626_3468# gnd sky130_fd_pr__res_xhigh_po_0p35 l=4.5
X12 a_n2231_2361# a_n2855_1995# a_n2339_1995# vpwr sky130_fd_pr__pfet_01v8_hvt ad=0.116 pd=0.97 as=0.0724 ps=0.765 w=0.42 l=0.15
X13 a_n2689_1995# a_n2855_1995# gnd gnd sky130_fd_pr__nfet_01v8 ad=0.109 pd=1.36 as=0.0567 ps=0.69 w=0.42 l=0.15
X14 a_n1934_4800# a_n2100_3468# gnd sky130_fd_pr__res_xhigh_po_0p35 l=4.5
X15 gnd reset_b_dff a_n2077_1995# gnd sky130_fd_pr__nfet_01v8 ad=0.135 pd=1.15 as=0.0441 ps=0.63 w=0.42 l=0.15
X16 a_n2598_4800# a_n2764_3468# gnd sky130_fd_pr__res_xhigh_po_0p35 l=4.5
X17 gnd a_n1599_1969# a_n1665_1995# gnd sky130_fd_pr__nfet_01v8 ad=0.125 pd=1.01 as=0.0669 ps=0.75 w=0.42 l=0.15
X18 vd a_n1768_3468# x1.D vd sky130_fd_pr__pfet_01v8 ad=0.87 pd=6.58 as=0.87 ps=6.58 w=3 l=0.15
X19 a_n1456_4800# a_n1768_3468# gnd sky130_fd_pr__res_xhigh_po_0p35 l=4.5
X20 vpwr a_n1599_1969# a_n1035_1995# vpwr sky130_fd_pr__pfet_01v8_hvt ad=0.154 pd=1.34 as=0.166 ps=1.8 w=0.64 l=0.15
X21 a_n1774_1995# a_n2855_1995# a_n2121_2237# vpwr sky130_fd_pr__pfet_01v8_hvt ad=0.0588 pd=0.7 as=0.129 ps=1.18 w=0.42 l=0.15
X22 a_n2077_1995# a_n2121_2237# a_n2243_1995# gnd sky130_fd_pr__nfet_01v8 ad=0.0441 pd=0.63 as=0.14 ps=1.1 w=0.42 l=0.15
X23 a_n2266_4800# a_n2432_3468# gnd sky130_fd_pr__res_xhigh_po_0p35 l=4.5
X24 a_n1124_4800# a_n1290_3468# gnd sky130_fd_pr__res_xhigh_po_0p35 l=4.5
X25 a_n2121_2237# a_n2339_1995# vpwr vpwr sky130_fd_pr__pfet_01v8_hvt ad=0.129 pd=1.18 as=0.218 ps=2.2 w=0.84 l=0.15
X26 a_n460_4800# x1.Q gnd sky130_fd_pr__res_xhigh_po_0p35 l=4.5
X27 vpwr clk a_n2855_1995# vpwr sky130_fd_pr__pfet_01v8_hvt ad=0.0864 pd=0.91 as=0.166 ps=1.8 w=0.64 l=0.15
X28 out a_n1035_1995# vpwr vpwr sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.154 ps=1.34 w=1 l=0.15
X29 gnd a_n1599_1969# a_n1035_1995# gnd sky130_fd_pr__nfet_01v8 ad=0.1 pd=0.985 as=0.109 ps=1.36 w=0.42 l=0.15
X30 vpwr a_n2121_2237# a_n2231_2361# vpwr sky130_fd_pr__pfet_01v8_hvt ad=0.0703 pd=0.755 as=0.116 ps=0.97 w=0.42 l=0.15
X31 a_n2121_2237# a_n2339_1995# gnd gnd sky130_fd_pr__nfet_01v8 ad=0.0999 pd=0.985 as=0.135 ps=1.15 w=0.64 l=0.15
X32 a_n1774_1995# a_n2689_1995# a_n2121_2237# gnd sky130_fd_pr__nfet_01v8 ad=0.0711 pd=0.755 as=0.0999 ps=0.985 w=0.36 l=0.15
X33 a_n1612_2361# a_n2689_1995# a_n1774_1995# vpwr sky130_fd_pr__pfet_01v8_hvt ad=0.0567 pd=0.69 as=0.0588 ps=0.7 w=0.42 l=0.15
X34 a_n2339_1995# a_n2855_1995# a_n2434_1995# gnd sky130_fd_pr__nfet_01v8 ad=0.0594 pd=0.69 as=0.066 ps=0.745 w=0.36 l=0.15
X35 a_n2434_1995# x1.D gnd gnd sky130_fd_pr__nfet_01v8 ad=0.066 pd=0.745 as=0.221 ps=1.89 w=0.42 l=0.15
X36 a_n460_4800# a_n626_3468# gnd sky130_fd_pr__res_xhigh_po_0p35 l=4.5
X37 a_n2434_1995# x1.D vpwr vpwr sky130_fd_pr__pfet_01v8_hvt ad=0.0651 pd=0.73 as=0.109 ps=1.36 w=0.42 l=0.15
X38 vpwr a_n1774_1995# a_n1599_1969# vpwr sky130_fd_pr__pfet_01v8_hvt ad=0.213 pd=1.67 as=0.0567 ps=0.69 w=0.42 l=0.15
X39 a_n2930_4800# a_n2764_3468# gnd sky130_fd_pr__res_xhigh_po_0p35 l=4.5
X40 gnd clk a_n2855_1995# gnd sky130_fd_pr__nfet_01v8 ad=0.0567 pd=0.69 as=0.109 ps=1.36 w=0.42 l=0.15
X41 a_n1768_3468# gnd sky130_fd_pr__cap_mim_m3_1 l=27.2 w=27.2
X42 a_n1420_1995# reset_b_dff gnd gnd sky130_fd_pr__nfet_01v8 ad=0.064 pd=0.725 as=0.125 ps=1.01 w=0.42 l=0.15
X43 a_n1934_4800# a_n1768_3468# gnd sky130_fd_pr__res_xhigh_po_0p35 l=4.5
X44 a_n792_4800# a_n958_3468# gnd sky130_fd_pr__res_xhigh_po_0p35 l=4.5
X45 a_n2598_4800# a_n2432_3468# gnd sky130_fd_pr__res_xhigh_po_0p35 l=4.5
X46 a_n2339_1995# a_n2689_1995# a_n2434_1995# vpwr sky130_fd_pr__pfet_01v8_hvt ad=0.0724 pd=0.765 as=0.0651 ps=0.73 w=0.42 l=0.15
X47 a_n2930_4800# in gnd sky130_fd_pr__res_xhigh_po_0p35 l=4.5
X48 a_n1456_4800# a_n1290_3468# gnd sky130_fd_pr__res_xhigh_po_0p35 l=4.5
X49 a_n2689_1995# a_n2855_1995# vpwr vpwr sky130_fd_pr__pfet_01v8_hvt ad=0.166 pd=1.8 as=0.0864 ps=0.91 w=0.64 l=0.15
X50 x1.Q a_n1599_1969# gnd gnd sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.169 ps=1.82 w=0.65 l=0.15
.ends

.subckt device-complete vd gnd clk out vpwr ib out_buff vts out_sigma
Xsensor_0 vd vts vtd gnd sensor
Xbuffer_0 vd ib out_buff vts gnd buffer
Xask-modulator_0 gnd out_sigma out vd gnd ask-modulator
Xsigma-delta_0 out_buff gnd vd gnd clk out_sigma vpwr vpwr gnd sigma-delta
.ends

